US04897392
13-Chloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-thione
A mixture of 12.5 g 13-chloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-one, 22.6 g phosphorus pentasulfide and 8.6 g sodium bicarbonate in 240 ml diglyme was heated at 110° C. for two hours. The resulting mixture was cooled and poured into 2.5 L water to precipitate a solid. The solid was collected, washed with water and dried (P2O5) to give 11.9 g crude product. Recrystallization of 3.3 g from toluene (300 ml) gave 2.08 g fluffy solid, m.p. 280°-282° C. (dec.).

reactant | 13-chloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-one | 12.5 g | ClC=1C=2C=CC=CC2N2CC(NC3=C(C21)C=CC=C3)=O | C16H11ClN2O
reactant | phosphorus pentasulfide | 22.6 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | sodium bicarbonate | 8.6 g | C([O-])(O)=O.[Na+]
reactant | water | 2.5 L | O | H2O
solvent | diglyme | 240 ml | COCCOCCOC | C6H14O3
product | 13-Chloroindolo[1,2-d][1,4]benzodiazepin-6(7H)-thione | 2.08 g | ClC=1C=2C=CC=CC2N2CC(NC3=C(C21)C=CC=C3)=S | C16H11ClN2S
